US05294638
3.4 ml N-methylaminoethanol and 7.3 ml triethylamine were added to 12.4 g 2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethyl bromide, and the reaction mixture was stirred for 6 hours at room temperature. To work up the reaction mixture it was chromatographed over silica gel using dichloromethane/methanol (8:2) as solvent. 3.8 g N-methyl-N-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethyl]-2-aminoethanol were obtained. Rf value=0.4. Furthermore, 7 g unreacted starting material were recovered.

reactant | N-methylaminoethanol | 3.4 ml | CNC(C)O | C3H9NO
reactant | 2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethyl bromide | 12.4 g | CC1([C@H]2CC[C@H]([C@@H]1C2)CCBr)C | C11H19Br
reactant | triethylamine | 7.3 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethyl]-2-aminoethanol | 3.8 g | CN(CCO)CC[C@H]1[C@H]2C([C@@H](CC1)C2)(C)C | C14H27NO
